Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization with coronary angiography 

 
History of Present Illness:
Mr. ___ is a ___ male with a past medical history DMII 
who presents to emergency department with shortness of breath 
and chest pain for the past 4 days.

Patient notes that 4 mornings ago he woke up and started to feel 
generally weaker throughout the day. He noticed some chest 
pressure, central, without radiation. This pressure would occur 
with standing and exertion, walking and especially climbing any 
stairs. The pressure would resolve with sitting/lying down and 
recur with movement. Shortness of breath was only with activity. 
He notes that the weakness he felt was a generalized feeling, 
which happened with walking, and coincided with feeling 
lightheaded. No associated diaphoresis, nausea, vomiting. No 
orthopnea. No cough. No recent illness. Of note, patient works 
as a ___. When he awoke today, he felt more SOB and 
weaker than before (had been attributing to dehydration, but was 
progressive). He could not walk across the room without SOB. He 
decided he couldn't go to work and came to ___ where concern 
given new PR prolongation and report of ?Mobitz type II on EKG 
(I cannot access this on webepic currently, here patient with 
Tyle I block)

Also of note, patient has not had a cardiac workup in the past. 
No echo or cath. He does not that chest pressure similar to the 
past few days has been occurring intermittently the last ___ 
years, about ___ times a year, feeling quite minor and often 
resolving quickly. Unsure whether these episodes were with 
exertion.

In the ED, initial VS were 98.6 78 113/55 18 98% RA Exam notable 
for well appearing, No murmurs or gallops, CTA bilat equal 
pulses bilaterally. Labs showed initial trop at 0.44, and 6 
hours later was 0.42. CKMD 5, CK 97. CBC with WBC 6.2, Hgb 13.5, 
Plts 176. Coags WNL. Chem7 WNL except K 5.9 (hemolyzed, repeat 
4.0). CXR showed no acute cardiopulmonary process Received 
aspirin 324mg and started on a heparin gtt with bolus. Transfer 
VS were HR 82 122/74 16 96% RA ___ cardiology was reportedly 
consulted On arrival to the floor, patient reports he feels at 
baseline. He feels no current chest pain or SOB. Feels as though 
with hydration from IV fluids in the ED (only received fluids 
with heparin). No fevers/chills. No recent diarrhea, vomiting, 
dysuria, hematuria or GI bleeding. No changes in vision. 
Weakness feels improved. 
 
Past Medical History:
T2DM
 
Social History:
___
Family History:
-Maternal uncle and maternal grandmother with some form of heart 
disease, unsure what
-Brother with history of 'blood cancer' which affected his 
heart, died of CV disease NOS
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.6 125/82 R Sitting 90 16 97 ra 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCAHRGE PHYSICAL EXAM:
VITALS:  99.1 PO ___ 18 99 RA    
WEIGHT:  84.8 kg   
WEIGHT ON ADMISSION:  87.3 kg
TELEMETRY:  AV delay
GENERAL: WDWN. Pleasant, in NAD. Oriented x3. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with no JVD. 
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills,
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. Right femoral and radial access site
intact, no bruits or swelling. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric.   

 
Pertinent Results:
ADMISSION LABS:
====================
___ 05:30PM BLOOD WBC-6.2 RBC-4.92 Hgb-13.5* Hct-42.4 
MCV-86 MCH-27.4 MCHC-31.8* RDW-11.9 RDWSD-37.4 Plt ___
___ 05:30PM BLOOD Neuts-63.9 ___ Monos-11.4 Eos-1.1 
Baso-0.2 Im ___ AbsNeut-3.98 AbsLymp-1.44 AbsMono-0.71 
AbsEos-0.07 AbsBaso-0.01
___ 05:30PM BLOOD Glucose-136* UreaN-17 Creat-1.1 Na-134 
K-5.9* Cl-101 HCO3-22 AnGap-17
___ 10:55PM BLOOD cTropnT-0.42*
___ 09:12PM BLOOD CK-MB-5 proBNP-699*

INTERIM LABS:
====================
___ 05:15AM BLOOD WBC-5.2 RBC-4.49* Hgb-12.4* Hct-37.7* 
MCV-84 MCH-27.6 MCHC-32.9 RDW-11.9 RDWSD-36.1 Plt ___
___ 05:15AM BLOOD Plt ___
___ 01:00AM BLOOD K-4.3
___ 05:15AM BLOOD Glucose-186* UreaN-15 Creat-1.0 Na-138 
K-3.9 Cl-103 HCO3-21* AnGap-18
___ 01:00AM BLOOD cTropnT-0.73*
___ 05:15AM BLOOD CK-MB-4 cTropnT-0.49*
___ 12:58PM BLOOD CK-MB-4 cTropnT-0.47*
___ 05:30PM BLOOD %HbA1c-7.4* eAG-166*

DISCHARGE LABS:
====================
___ 06:10AM BLOOD WBC-5.1 RBC-4.36* Hgb-12.1* Hct-36.7* 
MCV-84 MCH-27.8 MCHC-33.0 RDW-11.7 RDWSD-35.5 Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD Glucose-166* UreaN-16 Creat-1.1 Na-137 
K-4.2 Cl-103 HCO3-22 AnGap-16
___ 06:10AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.0

MICROBIOLOGY:
====================
None. 

IMAGING:
=====================
___ CARDIAC CATH:
Coronary Anatomy
Dominance: Co-dominant
* Left Main Coronary Artery
The LMCA is short and angiographically normal
* Left Anterior Descending
The LAD is a large vessel that extends to the apex and is 
overall non obstructive
a portion of the apical LAD wraps around the apex
* Circumflex
The Circumflex is co-dominant
there is a 80-90% tubular lesion extending into the OM1
* Right Coronary Artery
The RCA is occluded in its mid segment (100%) with no antergrade 
collaterals
The Right PDA reconstituted via left sided retrograde 
collaterals

Impressions:
1. Severe two vessel CAD in this co-dominant system
2. Mid RCA 100% oocclusion successfully Rxed with a 2.5 DES 
(Promus Premier)
3. LCx/OM1 80-90% lesion succesfully Rxed with a 2.5 DES (Promus 
Premier)
4. Mildly elevated LV filling pressures

Recommendations
1. Dual anti plt Rx with ASA and Clopidogrel for a min of ___ year 
post PCI
2. Aggressive secondary risk factor modification
3. Further recommendations as per inpatient Cardiology service

___ ECHO:
Conclusions   
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thicknesses and cavity size are normal. There 
is mild regional left ventricular systolic dysfunction with 
basal inferior hypokinesis. The remaining segments contract 
normally. Quantitative (3D) LVEF = 47%. Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are structurally 
normal. Mild (1+) mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD. Mild mitral regurgitation.   

 
Brief Hospital Course:
Mr. ___ is a ___ male with a past medical history T2DM 
who presented to emergency department with shortness of breath 
and chest pain for the past 4 days. He had positive troponins 
(Trop T peak at 0.73) and was taken to the cardiac cath lab on 
___ for coronary angiography. Findings included: LAD clean, 
LCx 90% lesion in OM1, RCA mid segment 100% occlusion, DES 
placed to both OM1/RCA. He was discharged on aspirin 81mg daily, 
atorvastatin 80mg daily, and Plavix 75 daily (should continue 
for minimum ___ year or otherwise directed by his cardiologist). 

On telemetry the patient had ___ Mobitz II block that improved 
with activity and increased HR to 1:1 AV delay, indicating 
likely AV node origin. Denied lightheadedness, shortness of 
breath or syncope. No need for emergent pacemaker, will have 
outpatient ___ set up and close f/u with Dr. ___. 

TRANSITIONAL ISSUES:
=======================
CODE: FULL CODE 
Health care proxy name: ___. Relationship: wife Phone: 
___ 

[] Please ensure patient has ___ of Hearts monitor set up
[] Can consider starting a beta blocker in the future, pending 
above monitor results. Held off right now given new Mobitz II 
block at times on telemetry. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Lisinopril 5 mg PO DAILY 
3. Sildenafil Dose is Unknown  PO PRN activity 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Sildenafil 20 mg PO PRN activity  
5.  Lisinopril 5 mg PO DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
===================
NSTEMI
CAD
Prolonged PR interval

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It has been a pleasure caring for you at ___.

Why was I here?
-You were here because you were having chest pain.

What was done while I was here?
-You were taken to the cardiac cath lab to see if there were 
blockages in the arteries of your heart. There was some, and 
tubes called stents were placed to hold them open. 
-You also have an abnormal heart rhythm and will be set up with 
a heart monitor by your heart doctors to monitor this at home. 

What should I do when I go home?
-Please review the medication list below for any changes.
-Please follow up with your PCP and heart doctors as noted 
below. 

We wish you the best!

Sincerely,

Your ___ Cardiology Team 

 
Followup Instructions:
___